US09334290B2
A suspension of 4-bromo-5-chloro-2-hydrazinylbenzoic acid hydrochloride (12.89 g, 37.6 mmol), ethyl 3-oxocyclohexanecarboxylate (7.03 g, 41.3 mmol), and acetic acid (6.45 mL, 113 mmol) in toluene (188 mL) was heated at 105° C. overnight. After 16 h, more acetic acid (6 mL) and ethyl 3-oxocyclohexanecarboxylate (2.00 g) were added and the mixture was heated at 110° C. for 4.5 h. The mixture was concentrated, and the residue was combined with toluene (100 mL) and TFA (20 mL). The suspension was heated at 90° C. overnight. The cooled mixture was concentrated and the residue was suspended in EtOAc. The resulting solid was collected by filtration, washed with EtOAc and air-dried to give 5-bromo-6-chloro-2-(ethoxycarbonyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid as a yellow solid (11.0 g, 73% yield). Mass spectrum m/z 400, 402 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 13.44 (br. s., 1H), 11.24 (s, 1H), 7.69 (s, 1H), 4.12 (qd, J=7.1, 2.3 Hz, 2H), 3.23-2.81 (m, 5H), 2.23-2.09 (m, 1H), 1.91-1.75 (m, 1H), 1.22 (t, J=7.0 Hz, 3H).

reactant | 4-bromo-5-chloro-2-hydrazinylbenzoic acid hydrochloride | 37.6 mmol, 12.89 g | Cl.BrC1=CC(=C(C(=O)O)C=C1Cl)NN
reactant | ethyl 3-oxocyclohexanecarboxylate | 41.3 mmol, 7.03 g | O=C1CC(CCC1)C(=O)OCC | C9H14O3
reactant | acetic acid | 113 mmol, 6.45 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
reactant | ethyl 3-oxocyclohexanecarboxylate | 2.00 g | O=C1CC(CCC1)C(=O)OCC | C9H14O3
solvent | toluene | 188 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-6-chloro-2-(ethoxycarbonyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 11.0 g, 73% yield | BrC1=C2C=3CCC(CC3NC2=C(C=C1Cl)C(=O)O)C(=O)OCC | C16H15BrClNO4
